US03959322
13β-Ethyl-3-methoxy-gona-2,5(10)-dien-17β-ol
To prepare 13β-(3-dimethylaminopropyl)-1,3-dimethoxy-gona-1(10),3-dien-17β-ol react 13β-(3-dimethylaminopropyl)-1,3-dimethoxy-gona-1,3,5(10)-trien 17β-ol in tetrahydrofuran with lithium in liquid ammonia according to the manipulative procedure described above.

reactant | 13β-(3-dimethylaminopropyl)-1,3-dimethoxy-gona-1(10),3-dien-17β-ol | CN(CCC[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C1=C(CC(=CC1CC2)OC)OC)O)C | C24H39NO3
reactant | 13β-(3-dimethylaminopropyl)-1,3-dimethoxy-gona-1,3,5(10)-trien 17β-ol | CN(CCC[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C=1C(=CC(=CC1CC2)OC)OC)O)C | C24H37NO3
reactant | lithium | [Li] | Li
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 13β-Ethyl-3-methoxy-gona-2,5(10)-dien-17β-ol | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C=1CC=C(CC1CC2)OC)O | C20H30O2
